US07414063B2
Preparation of [2-(2-bromo-4-chloro-phenoxy)-ethyl]-[2-(1-hydroxy-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (0.199 g, 0.958 mmol) is added to a stirred solution of 1-hydroxy-isoquinoline-5-sulfonic acid {2-[2-(2-bromo-4-chloro-phenoxy)-ethylamino]ethyl}-amide (0.457 g, 0.912 mmol) in anhydrous methylene chloride (10 mL)/methanol (10 mL). The mixture is allowed to stir at ambient temperature for 4 hours. After concentration and MPLC separation on silica (gradient 0-10% methanol in methylene chloride), 0.500 g (91% yield) of the title compound is obtained. ESIMS: m/z 600 [(M+H)+, 35Cl, 79Br], 602 [(M+H)+, 37Cl, 79Br or 35Cl, 81Br], 604 [(M+H)+, 37Cl, 81Br].

reactant | Di-tert-butyl dicarbonate | 0.958 mmol, 0.199 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-hydroxy-isoquinoline-5-sulfonic acid {2-[2-(2-bromo-4-chloro-phenoxy)-ethylamino]ethyl}-amide | 0.912 mmol, 0.457 g | BrC1=C(OCCNCCNS(=O)(=O)C=2C=3C=CN=C(C3C=CC2)O)C=CC(=C1)Cl | C19H19BrClN3O4S
reactant | methanol | 10 mL | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | [2-(2-bromo-4-chloro-phenoxy)-ethyl]-[2-(1-hydroxy-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 0.500 g, 91% yield | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)O)CCOC1=C(C=C(C=C1)Cl)Br)=O | C24H27BrClN3O6S
